US08076324B2
4-Cyclopropylmethoxy-4-(4-fluorophenyl)-1-phenylcyclohexanecarbonitrile
500 mg of 4-(4-fluorophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile were dissolved in 10 ml of dry dimethyl sulfoxide, treated with 190 mg of potassium hydroxide and stirred for 30 min at room temperature. Subsequently, 0.17 ml of bromomethylcyclopropane were slowly added dropwise. The reaction mixture was stirred for 24 h, treated with water and extracted with EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. The crude product, a clear oil, was purified by chromatography on silica gel using HEP/EA (2:1). 510 mg of the title compound were obtained as a white solid.

reactant | 4-(4-fluorophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile | 500 mg | FC1=CC=C(C=C1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)O | C19H18FNO
reactant | potassium hydroxide | 190 mg | [OH-].[K+]
reactant | bromomethylcyclopropane | 0.17 ml | BrCC1CC1 | C4H7Br
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-Cyclopropylmethoxy-4-(4-fluorophenyl)-1-phenylcyclohexanecarbonitrile | 510 mg | C1(CC1)COC1(CCC(CC1)(C#N)C1=CC=CC=C1)C1=CC=C(C=C1)F | C23H24FNO
